US08211901B2
Preparation of N-(2-aminophenyl)-6-(quinolin-4-yloxy)-1-naphthamide
The title compound (35.6 mg, 88% yield) was prepared as a brown solid from 6-(quinolin-4-yloxy)-1-naphthoic acid (31.5 mg, 0.1 mmol) and o-phenylenediamine (43.2 mg, 0.4 mmol) by an analogous procedure to that described in example 16. 1H NMR (DMSO-d6) δ 4.97 (s, 2H, benzene-NH2), 6.65 (t, J=7.3 Hz, 1H, Ar—H), 6.75 (d, J=5.1 Hz, 1H, Ar—H), 6.82 (d, J=7.8 Hz, 1H, Ar—H), 7.00 (t, J=7.1 Hz, 1H, Ar—H), 7.38 (d, J=7.5 Hz, 1H, Ar—H), 7.59 (dd, J=2.3 and 9.2 Hz, 1H, Ar—H), 7.64-7.71 (m, 2H, Ar—H), 7.83-7.92 (m, 3H, Ar—H), 8.08 (d, J=8.4 Hz, 2H, Ar—H), 8.37 (d, J=7.9 Hz, 1H, Ar—H), 8.45 (d, J=9.2 Hz, 1H, Ar—H), 8.73 (d, J=5.1 Hz, 1H, Ar—H), 9.85 (s, 1H, benzene-NH). LC-MS (m/z) 406 (M+1).

reactant | 6-(quinolin-4-yloxy)-1-naphthoic acid | 0.1 mmol, 31.5 mg | N1=CC=C(C2=CC=CC=C12)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C20H13NO3
reactant | o-phenylenediamine | 0.4 mmol, 43.2 mg | C1(=C(C=CC=C1)N)N | C6H8N2
product | N-(2-aminophenyl)-6-(quinolin-4-yloxy)-1-naphthamide | 35.6 mg, 88% yield | NC1=C(C=CC=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=CC=NC2=CC=CC=C12 | C26H19N3O2
